US08106070B2
Methylmagnesium bromide (3 M in diethyl ether) (6.1 mL, 18.42 mmol) was added to a −78° C. solution of 4-(2,2-dimethylbutyl)-2-{[4-(5-fluoropyridin-2-yl)phenyl]acetyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide (4.22 g, 9.21 mmol) in tetrahydrofuran (50 mL). After warming slowly to ambient temperature, the reaction was quenched with saturated aqueous ammonium chloride and extracted with methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-60% ethyl acetate/hexane afforded 4-(2,2-dimethylpropyl)-2-{2-[4-(5-fluoropyridin-2-yl)phenyl]-1-hydroxy-1-methylethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide.

reactant | Methylmagnesium bromide | 18.42 mmol, 3 M, 6.1 mL | C[Mg]Br
reactant | 4-(2,2-dimethylbutyl)-2-{[4-(5-fluoropyridin-2-yl)phenyl]acetyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | 9.21 mmol, 4.22 g | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)=O)(CC)C | C24H29FN4O3S
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-(2,2-dimethylpropyl)-2-{2-[4-(5-fluoropyridin-2-yl)phenyl]-1-hydroxy-1-methylethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)(C)O)(C)C | C24H31FN4O3S
